US07893058B2
Intermediate 2: (5-Bromo-imidazo[1,2-a]pyrazin-8-yl)-(4-methoxy-benzyl)carbamic acid tert-butyl ester
Following the general procedure for Boc protection, (5-bromo-imidazo[1,2-a]pyrazin-8-yl)-(4-methoxybenzyl)-amine (1.18 g, 3.6 mmol) is treated with di-tert-butyldicarbonate (2.34 g, 10.68 mmol) to give the title compound; HPLC (254 nm): Rt 2.84 min (100%); m/z (APCI) 433 (M+H)+, 333 (M+H-BOC); 1H NMR (250 MHz, CDCl3) δ(ppm)1.38 (9H, s), 3.74 (3H, s), 6.77 (2H, d), 7.33 (2H, d), 7.80-7.82 (3H, m).

reactant | (5-bromo-imidazo[1,2-a]pyrazin-8-yl)-(4-methoxybenzyl)-amine | 3.6 mmol, 1.18 g | BrC1=CN=C(C=2N1C=CN2)NCC2=CC=C(C=C2)OC | C14H13BrN4O
reactant | di-tert-butyldicarbonate | 10.68 mmol, 2.34 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
product | (5-Bromo-imidazo[1,2-a]pyrazin-8-yl)-(4-methoxy-benzyl)carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CC1=CC=C(C=C1)OC)C=1C=2N(C(=CN1)Br)C=CN2)=O | C19H21BrN4O3
